US06906103B2
A suspension of 1H-Indole-2,5-dicarboxylic acid 2-ethyl ester (20.0 g, 85.75 mmole) in a saturated HCl/EtOH (200 ml) was stirred at 55C for 24 h and evaporated in vacuo to dryness. The residue was freeze-dried from dioxane to give 22.18 g (99%) of 1H-indole-2,5-dicarboxylic acid diethyl ester, 16 as white powder. MS: 262.12 (M+H). 1H-NMR (DMSO-d6): 12.23 (s, 1H, H-1, indole); 8.34 (m, 1H, H-4, indole); 7.83 (m, 1H, H-6, indole); 7.49 (m, 1H, H-7, indole); 7.30 (s, 1H, H-3, indole); 4.31 (m, 4H, —OCH2CH3); 1.32 (m, 4H, —OCH2CH3).

reactant | 1H-Indole-2,5-dicarboxylic acid 2-ethyl ester | 85.75 mmole, 20.0 g | CCOC(=O)C=1NC2=CC=C(C=C2C1)C(=O)O | C12H11NO4
reactant | HCl EtOH | 200 ml | Cl.CCO
product | 1H-indole-2,5-dicarboxylic acid diethyl ester | 22.18 g, 99% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)C(=O)OCC | C14H15NO4
